US08487108B2
Step 1. methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(methylamino)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate
A mixture of fumarate salt (0.120 g) of methyl 2-((R)-(3-chlorophenyl)((R)-1-((S)-1-cyclohexyl-3-(methylamino)propan-2-ylcarbamoyl)piperidin-3-yl)methoxy)ethylcarbamate, HCO2NH4 (1.200 g), and 10% Pd/C (0.150 g) in MeOH was stirred at rt for 3 d. The mixture was filtered off precipitates through Celite® 545 and washed with MeOH. After the solvent was evaporated under reduced pressure, the crude methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(methylamino)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate was directly used in the next step without further purification. MS ESI +ve m/z 489 (M+H).

reactant | methyl 2-((R)-(3-chlorophenyl)((R)-1-((S)-1-cyclohexyl-3-(methylamino)propan-2-ylcarbamoyl)piperidin-3-yl)methoxy)ethylcarbamate | ClC=1C=C(C=CC1)[C@H](OCCNC(OC)=O)[C@H]1CN(CCC1)C(N[C@@H](CC1CCCCC1)CNC)=O | C27H43ClN4O4
solvent | MeOH | CO | CH4O
catalyst | Pd/C | 0.150 g | [Pd] | Pd
product | methyl 2-((R)—((R)-1-((S)-1-cyclohexyl-3-(methylamino)propan-2-ylcarbamoyl)piperidin-3-yl)(phenyl)methoxy)ethylcarbamate | C1(CCCCC1)C[C@@H](CNC)NC(=O)N1C[C@@H](CCC1)[C@@H](OCCNC(OC)=O)C1=CC=CC=C1 | C27H44N4O4
